US06162832
To a solution of 4-(2-nitrophenoxy)phenol (462 mg, 2.0 mmol) in N,N-dimethylformamide (20 ml) were added 2-fluorobenzyl bromide (400 mg, 2.1 mmol), potassium iodide (40 mg, 0.24 mmol) and potassium carbonate (300 mg, 2.2 mmol), followed by stirring at 50° C. for 4 hours. The reaction solution was poured into water and extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution and dried. The solvent was evaporated under reduced pressure to give 1-[4-(2-fluorobenzyloxy)phenoxy]-2-nitrobenzene (0.65 g).

reactant | 4-(2-nitrophenoxy)phenol | 2.0 mmol, 462 mg | [N+](=O)([O-])C1=C(OC2=CC=C(C=C2)O)C=CC=C1 | C12H9NO4
reactant | 2-fluorobenzyl bromide | 2.1 mmol, 400 mg | FC1=C(CBr)C=CC=C1 | C7H6BrF
reactant | potassium iodide | 0.24 mmol, 40 mg | [I-].[K+]
reactant | potassium carbonate | 2.2 mmol, 300 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[4-(2-fluorobenzyloxy)phenoxy]-2-nitrobenzene | 0.65 g | FC1=C(COC2=CC=C(OC3=C(C=CC=C3)[N+](=O)[O-])C=C2)C=CC=C1 | C19H14FNO4
